US04371547
Following a procedure analagous to that of Example 1(b) but using respectively 2,6-diethoxy-3-(α-ethoxy-2-chlorobenzyl)tetrahydropyran and 2,6-diethoxy-3-(α-ethoxy-4-methoxybenzyl)tetrahydropyran there was obtained respectively 2-(2-chlorobenzylidene)glutaraldehyde, b.p. 155° C. (0.8 mm), yield: 57%; and 2-(4-methoxybenzylidene)glutaraldehyde, b.p. 175° C. (1.0 mm), yield 61%.

reactant | 2,6-diethoxy-3-(α-ethoxy-2-chlorobenzyl)tetrahydropyran | C(C)OC1OC(CCC1C(C1=C(C=CC=C1)Cl)OCC)OCC | C18H27ClO4
reactant | 2,6-diethoxy-3-(α-ethoxy-4-methoxybenzyl)tetrahydropyran | C(C)OC1OC(CCC1C(C1=CC=C(C=C1)OC)OCC)OCC | C19H30O5
product | 2-(2-chlorobenzylidene)glutaraldehyde | yield: 57% | ClC1=C(C=C(C=O)CCC=O)C=CC=C1 | C12H11ClO2
